Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Penicillins / Codeine
 
Attending: ___.
 
Chief Complaint:
inability to care for self
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Ms. ___ is a ___ female with past medical
history notable for HLD who presents with concern for failure to
thrive.

Per daughter, patient is not taking care of herself the past 3 
or
___ years. Has lost a total of 150 pounds and is not herself at
all. And has become increasingly mute and unresponsive. S/p fall
2 days prior, pt reports "knees gave out". Denies head strike or
loss of consciousness. Denies any preceding symptoms causing the
fall. 

In general, denies chest pain, shortness of breath, headache,
vision changes, abdominal pain, nausea vomiting, change in bowel
movement or urination, dysuria. History obtained from daughters
states patient has been in bed the past days, only getting up to
smoke and use the bathroom. She has been having poor PO intake
and she lives with her boyfriend, who is struggling to care for
her. ___ patient ___ showered/caring for herself
in a long time and house is not kept. Family concerned for
failure to thrive.

 
Past Medical History:
- Depression 
- Gastritis
- IBS
 
Social History:
___
Family History:
Reviewed and found to be not relevant to this illness/reason for 
hospitalization.
 
Physical Exam:
ADMISSION:

VITALS: Afebrile and vital signs stable (see eFlowsheet)
GENERAL: Alert and in no apparent distress
EYES: Anicteric, pupils equally round
ENT: Ears and nose without visible erythema, masses, or trauma. 
Oropharynx without visible lesion, erythema or exudate
CV: Heart regular, no murmur, no S3, no S4.  No JVD.
RESP: Lungs clear to auscultation with good air movement
bilaterally.  Breathing is non-labored
GI: Abdomen soft, non-distended, non-tender to palpation.  Bowel
sounds present.  No HSM
GU: No suprapubic fullness or tenderness to palpation
MSK: Neck supple, moves all extremities, strength grossly full
and symmetric bilaterally in all limbs. Minor tenderness to L
knee on flexion
SKIN: No rashes or ulcerations noted
NEURO: Alert, oriented, face symmetric, gaze conjugate with 
EOMI,
speech fluent, moves all limbs, sensation to light touch grossly
intact throughout
PSYCH: pleasant, appropriate affect

DISCHARGE:

VITALS: T 98.6 BP 106/63 HR 67 RR 20 Sat 98% on room air
GENERAL: Alert and in no apparent distress, sitting up in chair
EYES: Anicteric, pupils equally round
ENT: Ears and nose without visible erythema, masses, or trauma. 
Oropharynx without visible lesion, erythema or exudate
CV: Heart regular, no murmur, no S3, no S4.  No JVD.
RESP: Lungs clear to auscultation with good air movement 
bilaterally. Breathing is non-labored
GI: Abdomen soft, non-distended, non-tender to palpation. Bowel 
sounds present. No HSM
GU: No suprapubic fullness or tenderness to palpation
MSK: Neck supple, moves all extremities, strength grossly full 
and symmetric bilaterally in all limbs. 
SKIN: No rashes or ulcerations noted
NEURO: Alert, oriented, face symmetric, gaze conjugate with 
EOMI, speech fluent, moves all limbs, sensation to light touch 
grossly intact throughout
PSYCH: pleasant, appropriate affect

 
Pertinent Results:
LABS:

___ 03:48PM BLOOD WBC-6.0 RBC-3.99 Hgb-12.2 Hct-36.7 MCV-92 
MCH-30.6 MCHC-33.2 RDW-13.2 RDWSD-44.8 Plt ___
___ 03:48PM BLOOD Neuts-76.8* Lymphs-16.1* Monos-6.0 
Eos-0.5* Baso-0.3 Im ___ AbsNeut-4.63 AbsLymp-0.97* 
AbsMono-0.36 AbsEos-0.03* AbsBaso-0.02
___ 03:48PM BLOOD ___ PTT-25.4 ___
___ 03:48PM BLOOD Glucose-172* UreaN-29* Creat-0.7 Na-136 
K-4.2 Cl-99 HCO3-25 AnGap-12
___ 03:48PM BLOOD ALT-22 AST-33 AlkPhos-87 TotBili-2.1*
___ 03:48PM BLOOD Lipase-18
___ 03:48PM BLOOD cTropnT-<0.01
___ 05:30AM BLOOD VitB12-731
___ 05:30AM BLOOD TSH-4.1

IMAGING:

___ CT Head:

FINDINGS: 
 
There is no evidence of infarction, hemorrhage, edema, or mass.  
The
ventricles and sulci are normal in size and configuration for 
age.
 
There is no evidence of fracture.  The visualized portion of the 
paranasal
sinuses, mastoid air cells, and middle ear cavities are clear.  
There is some
soft tissue material within the bilateral auditory canals, 
likely cerumen. 
The visualized portion of the orbits are unremarkable.
 
IMPRESSION: 
 
No acute intracranial process.

___ Chest X-ray:

FINDINGS: 
 
Heart size is normal.  Mild tortuosity of thoracic aorta.  The 
mediastinal and
hilar contours are unremarkable.  The pulmonary vasculature is 
normal. Lungs
are clear.  No pleural effusion or pneumothorax is seen. There 
are no acute
osseous abnormalities.  Moderate degenerative changes with 
anterior
osteophytes are seen throughout the thoracic spine.
 
IMPRESSION: 
 
No acute cardiopulmonary abnormality.

___: Knee X-Ray

FINDINGS: 
 
No acute fracture or dislocation.  Osseous structures are 
diffusely
demineralized.  Tricompartmental moderate degenerative changes 
with joint
space narrowing and osteophyte formation are most pronounced in 
the
patellofemoral and medial compartments.  No worrisome lytic or 
sclerotic
osseous abnormalities.  No significant joint effusion.  No 
radiopaque foreign
bodies or soft tissue calcifications.
 
IMPRESSION: 
 
No acute fracture or dislocation.  Moderate tricompartmental 
degenerative
changes.

MICRO:

___ 5:42 pm URINE

                            **FINAL REPORT ___

   URINE CULTURE (Final ___: 
      MIXED BACTERIAL FLORA ( >= 3 COLONY TYPES), CONSISTENT 
WITH SKIN
      AND/OR GENITAL CONTAMINATION. 
 
Brief Hospital Course:
Ms. ___ was initially brought to the ED with concern from 
her family that she wasn't taking care of herself or cleaning 
her apartment. Upon arrival here, basic vital signs and labs 
were remarkable for low potassium (which was repleted), very 
mild thrombocytopenia, and mildly elevated total bilirubin. Her 
daughter was concerned about underlying depression causing her 
inability to care for herself, therefore psychiatry evaluated 
her, however they did not feel she had significant depression. 
___ and OT evaluated her and recommended ___ care at home, 
however patient's daughter declined at this time as she did not 
feel her mother needed this much supervision. Instead, she 
elected to have daytime services set up as much as possible 
___, elder services, etc).

Transitional Issues:
-Patient will need to re-establish care with her PCP, who she 
___ seen in a while
-Will need to complete cognitive dysfunction work-up. Recommend 
setting up for outpatient MRI head. TSH and B12 wnl. Being 
referred to cognitive neurology clinic
-consider further hematologic work-up for low platelets if 
persistent
 
Medications on Admission:
The Preadmission Medication list may be inaccurate and requires 
futher investigation.
1. Atorvastatin 40 mg PO QPM 
2. FoLIC Acid 1 mg PO DAILY 
3. Metoclopramide 10 mg PO QIDACHS 
4. Omeprazole 20 mg PO DAILY 
5. Vitamin D 1000 UNIT PO DAILY 

 
Discharge Medications:
1.  Nicotine Patch 14 mg/day TD DAILY  
2.  Atorvastatin 40 mg PO QPM  
3.  FoLIC Acid 1 mg PO DAILY  
4.  Omeprazole 20 mg PO DAILY  
5.  Vitamin D 1000 UNIT PO DAILY  

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Failure to care for yourself

 
Discharge Condition:
Mental Status: Confused - sometimes.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
___,

You were admitted to the hospital because your family was 
concerned about you taking care of yourself at home. While you 
were here, you were evaluated by the ___, OT and psychiatry 
teams. You were recommended to go home with ___ care, however 
your family decided that the best course of action would be to 
have you set up with elder services and ___.

It was a pleasure taking care of you!

Sincerely, your ___ Team
 
Followup Instructions:
___